US08076329B2
A mixture of 4-(3-chloropropoxy)benzyl alcohol (11.1 g), potassium carbonate (23.0 g), piperidine (6.57 mL) and N,N-dimethylformamide (130 mL) is heated at a temperature close to 100° C. for 5 h30, then cooled back to room temperature. Water (130 mL) is added and organics are extracted with dichloromethane. The combined extracts are pooled, dried over magnesium sulphate, purified by chromatography over silica gel (eluent: dichloromethane/methanol with trace amount of ammonia from 90/10 to 80/20) to give 5.62 g of 1-[3-(4-hydroxymethylphenoxy)-propyl]piperidine, hydrochloride as a white solid used without further purification.

reactant | 4-(3-chloropropoxy)benzyl alcohol | 11.1 g | ClCCCOC1=CC=C(CO)C=C1 | C10H13ClO2
reactant | potassium carbonate | 23.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 6.57 mL | N1CCCCC1 | C5H11N
reactant | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
solvent | Water | 130 mL | O | H2O
product | 1-[3-(4-hydroxymethylphenoxy)-propyl]piperidine, hydrochloride | 5.62 g | Cl.OCC1=CC=C(OCCCN2CCCCC2)C=C1 | InChI=1S/C15H23NO2.ClH/c17-13-14-5-7-15(8-6-14)18-12-4-11-16-9-2-1-3-10-16;/h5-8,17H,1-4,9-13H2;1H
